US08530491B2
c) 2,4-diamino-6-ethyl-5-(3-(2-methylquinolin-4-yloxy)propoxy)pyrimidine monohydrochloride
To a stirring suspension of 2,4-diamino-6-ethyl-5-(3-(2-methylquinolin-4-yloxy)propoxy)pyrimidine (0.353 g, 1 mmol) in methanol (10 mL) was added one equivalent of hydrochloric acid at 25° C. After evaporation of solvent and trituration with diethyl ether, product was obtained as light yellow solid (0.3587 g, 92%). mp: 194-196° C. (dec.). 1H NMR (400 MHz, DMSO-d6): 0.99 (3H, t, J=7.5 Hz), 2.36 (2H, m), 2.44 (2H, q, J=7.5 Hz), 2.65 (3H, s), 3.97 (2H, t, J=6.0 Hz), 4.45 (2H, t, J=5.6 Hz), 7.09 (1H, s), 7.40 (2H, bs), 7.54 (2H, t, J=7.5 Hz), 7.75 (1H, t, J=7.8 Hz), 7.93 (2H, m), 8.14 (2H, m), 12.55 (1H, bs).

reactant | 2,4-diamino-6-ethyl-5-(3-(2-methylquinolin-4-yloxy)propoxy)pyrimidine | 1 mmol, 0.353 g | NC1=NC(=C(C(=N1)N)OCCCOC1=CC(=NC2=CC=CC=C12)C)CC | C19H23N5O2
reactant | hydrochloric acid | one equivalent | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(2-methylquinolin-4-yloxy)propoxy)pyrimidine monohydrochloride | 0.3587 g, 92% | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=CC(=NC2=CC=CC=C12)C)CC | InChI=1S/C19H23N5O2.ClH/c1-3-14-17(18(20)24-19(21)23-14)26-10-6-9-25-16-11-12(2)22-15-8-5-4-7-13(15)16;/h4-5,7-8,11H,3,6,9-10H2,1-2H3,(H4,20,21,23,24);1H
